US08957074B2
Preparation of 3-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridazine-3-carbonyl]-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester
In a 4 mL microwave vial 2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (98 mg, 0.336 mmol), 3-(6-amino-pyridazine-3-carbonyl)-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (112 mg, 0.336 mmol), BINAP (10.5 mg, 0.017 mmol), Cs2CO3 (164 mg, 0.504 mmol) and Pd(OAc)2 (3.8 mg, 0.017 mmol) were added together. The tube was capped and then purged with N2 three times. Dioxane (1.68 mL) was added and the capped tube was heated to 120° C. for 20 min in a microwave reactor. After cooling the reaction mixture was diluted with heptane resulting in the crude product precipitating out. The crude product was isolated by filtration, re-suspended in water and subjected to vigorous stirring and sonication. After re-isolating by filtration the product was purified by normal phase silica chromatography with a 0 to 20% MeOH/EtOAc gradient which gave a light tan solid (115 mg, 0.195 mmol). MS m/z 590.6 (M+H)+.

reactant | 2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.336 mmol, 98 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)Cl)N1C1CCCC1)C | C14H17ClN4O
reactant | 3-(6-amino-pyridazine-3-carbonyl)-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 0.336 mmol, 112 mg | C(C)(C)(C)OC(=O)N1C2CN(CC1CC2)C(=O)C=2N=NC(=CC2)N | C16H23N5O3
reactant | Cs2CO3 | 0.504 mmol, 164 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | water | O | H2O
catalyst | Pd(OAc)2 | 0.017 mmol, 3.8 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | BINAP | 0.017 mmol, 10.5 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
product | 3-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridazine-3-carbonyl]-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 0.195 mmol, 115 mg | C(C)(C)(C)OC(=O)N1C2CN(CC1CC2)C(=O)C=2N=NC(=CC2)NC=2N=CC1=C(N2)N(C(=C1)C(N(C)C)=O)C1CCCC1 | C30H39N9O4
